US04060526
Step 1. o-Benzylaminobenzamide
To a hot solution of 20 g Na OHin 1250 ml water was added 68 g 2-aminobenzamide followed by 58 ml benzyl chloride. The mixture was refluxed 20 minutes, cooled and the solid filtered and washed with water. The product was recrystallized from 95% alcohol to give 62 g, m.169-73°.

reactant | 2-aminobenzamide | 68 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | benzyl chloride | 58 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 1250 ml | O | H2O
product | o-Benzylaminobenzamide | C(C1=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | C14H14N2O
